US06706921B2
A solution of 29.5 g of 4-chloro-5-methanesulfonyl-2-methylbenzoic acid and 18.39 g of trimethyl orthoacetate in 100 ml of dioxane was refluxed until the acid had reacted completely. 150 ml of toluene were added, and the solvent was removed to the extent that the mixture still remained stirrable. 150 ml of 1-methyl-2-pyrrolidone (NMP) and 15.8 g of sodium methanesulfinate were subsequently added, and the mixture was stirred at 80° C. for 5 h. After addition of a further 5.3 g of sodium methanesulfinate, the mixture was stirred for 25 h. Conventional work-up gave methyl 4,5-bismethanesulfonyl-2-methylbenzoate.

reactant | 4-chloro-5-methanesulfonyl-2-methylbenzoic acid | 29.5 g | ClC1=CC(=C(C(=O)O)C=C1S(=O)(=O)C)C | C9H9ClO4S
reactant | trimethyl orthoacetate | 18.39 g | C(C)(OC)(OC)OC | C5H12O3
reactant | toluene | 150 ml | C1(=CC=CC=C1)C | C7H8
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | methyl 4,5-bismethanesulfonyl-2-methylbenzoate | CS(=O)(=O)C1=CC(=C(C(=O)OC)C=C1S(=O)(=O)C)C | C11H14O6S2
